US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-hexahydro-2-oxo-1-(2-phenylacetyl)-1H-azepin-3-yl]-1-piperazinecarboxamide
As described for example 213, [(3S)-hexahydro-2-oxo-1-(phenylacetyl)-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 535 (M++1). 1H NMR (CDCl3, 400 MHz): δ 1.20˜1.50 (m, 2H), 1.80˜2.20 (m, 4H), 3.10˜3.20 (m, 5H), 3.60˜3.70 (m, 4H), 4.28 (AB, 2H), 4.75 (dd, 1H), 4.80˜4.95 (m, 3H), 5.85 (d, 1H), 6.16 (s, 1H), 7.18 (dd, 1H), 7.22˜7.36 (m, 5H), 7.62 (d, 1H), 7.72 (d, 1H).

reactant | [(3S)-hexahydro-2-oxo-1-(phenylacetyl)-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester | O=C1N(CCCC[C@@H]1NC(OC(C)(C)C)=O)C(CC1=CC=CC=C1)=O | C19H26N2O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-hexahydro-2-oxo-1-(2-phenylacetyl)-1H-azepin-3-yl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)C(CC1=CC=CC=C1)=O)=O)Cl | C28H31ClN6O3
